US06455528B1
(5) Synthesis of N-(1-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)ethyl)phenyl)cyclopropyl)acetamide
By similar reaction and treatment to that in Example 1(5) using N-(1-(4-(1-chloroethyl)phenyl)cyclopropyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide and 1-(4-fluorophenyl)piperazine dihydrochloride instead of phenylpiperazine, the title compound was obtained as white crystals, m.p.=149-150° C.

reactant | N-(1-(4-(1-chloroethyl)phenyl)cyclopropyl)acetamide | ClC(C)C1=CC=C(C=C1)C1(CC1)NC(C)=O | C13H16ClNO
reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
product | N-(1-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)ethyl)phenyl)cyclopropyl)acetamide | FC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)C1(CC1)NC(C)=O | C23H28FN3O
